US07955664B2
4.6 6,8-Difluoro-3-[2-(6-fluoro-3-pentylchroman-7-yl)ethyl]-2H-chromene
6,8-Difluoro-3-[2-(6-fluoro-3-pentylchroman-7-yl)vinyl]-2H-chromene is dissolved in THF and hydrogenated to completion on a palladium/active carbon catalyst. The catalyst is filtered off, the solution is evaporated, the residue is filtered through silica gel with toluene/heptane (3:2), and the crude product is recrystallised from n-heptane at −25° C., giving colourless crystals of m.p. 84° C.

reactant | 6,8-Difluoro-3-[2-(6-fluoro-3-pentylchroman-7-yl)vinyl]-2H-chromene | FC=1C=C2C=C(COC2=C(C1)F)C=CC1=C(C=C2CC(COC2=C1)CCCCC)F | C25H25F3O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | 6,8-Difluoro-3-[2-(6-fluoro-3-pentylchroman-7-yl)ethyl]-2H-chromene | FC=1C=C2C=C(COC2=C(C1)F)CCC1=C(C=C2CC(COC2=C1)CCCCC)F | C25H27F3O2
